US07566803B2
B. [4-(1-{4-[2-(tert-Butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylphenyl]-methanol
To a 0° C. solution of the methyl 4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methyl-benzoate (4.37 g, 8.09 mmol) in THF (50 mL) is added LiAlH4 (0.31 g, 8.09 mmol). The reaction is stirred for 10 m and allowed to warm to RT overnight. The mixture is cooled to 0° C. and quenched successively with H2O (0.3 mL), 15% NaOH (0.3 mL) and H2O (0.9 mL). The mixture is stirred for 10 m, warmed to RT, stirred for 20 m, filtered through celite with EtOAc (100 mL) wash, and concentrated to give the title compound (4.14 g, 8.08 mmol, 99%).

reactant | methyl 4-(1-{4-[2-(t-butyldimethylsilanyloxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methyl-benzoate | 8.09 mmol, 4.37 g | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)OC)C=C1)C)C)C(C)(C)C | C33H52O4Si
reactant | LiAlH4 | 8.09 mmol, 0.31 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [4-(1-{4-[2-(tert-Butyldimethylsilanyloxy)-3,3-dimethylbutoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylphenyl]-methanol | 8.08 mmol, 4.14 g, 99% | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CO)C)C)C(C)(C)C | C32H52O3Si
